US07135482B2
1-(4-Fluorobenzyl)-N-hydroxy-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
The title compound was prepared by coupling of 1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid with N-methyl hydroxylamine hydrochloride in a manner similar to step (c) of example 1. 1H NMR (DMSO-d6) δ; 12.00 (br s, 1H), 8.91 (s, 1H), 8.03 (s, 1H), 7.91 (d, 1H, J=2.8 Hz), 7.38 (dd, 2H, J=5.7 Hz, J=8.5 Hz), 7.12 (d, 2H, J=8.5 Hz), 6.71 (d, 1H, J=3.0 Hz), 5.59 (s, 2H), 3.33 (s, 3H). LCMS (API-ES, M+H+): 301.1. HRMS calcd for C16H15FN3O2 (M+H) 300.1148. found 300.1138. HPLC: 100% purity

reactant | 1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | FC1=CC=C(CN2C=CC=3C2=CN=C(C3)C(=O)O)C=C1 | C15H11FN2O2
reactant | N-methyl hydroxylamine hydrochloride | Cl.CNO
product | 1-(4-Fluorobenzyl)-N-hydroxy-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | FC1=CC=C(CN2C=CC=3C2=CN=C(C3)C(=O)N(C)O)C=C1 | C16H14FN3O2
